US05866684
A mixture of 1.2 g (4.67 mmol) of N-(tert-butoxycarbonyl)-3-cyclopentyl-L-alanine, 540 mg (5 mmol) of benzylalcohol, 675 mg (5 mmol) of 1-hydroxybenzotriazole, 1.152 g (6 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and 0.031 g (0.25 mmol) of 4-dimethylaminopyridine was stirred in 20 ml of dichloromethane for 1 hour and then a further 610 mg (5 mmol) of 4-dimethylaminopyridine were added. After 4 hours the solution was extracted with 2M hydrochloric acid and saturated sodium bicarbonate solution, dried over anhydrous magnesium sulphate and evaporated. The oil obtained was chromatographed on silica gel using ethyl acetate/ petrol (1:6) for the elution to give 1.55 g of N-(tert-butoxycarbonyl)-3-cyclopentyl-L-alanine benzyl ester as a colourless oil; MS: m/e 348 [M+H].

reactant | N-(tert-butoxycarbonyl)-3-cyclopentyl-L-alanine | 4.67 mmol, 1.2 g | C(C)(C)(C)OC(=O)N[C@@H](CC1CCCC1)C(=O)O | C13H23NO4
reactant | benzylalcohol | 5 mmol, 540 mg | C(C1=CC=CC=C1)O | C7H8O
reactant | 1-hydroxybenzotriazole | 5 mmol, 675 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 6 mmol, 1.152 g | Cl.CN(CCCN=C=NCC)C
catalyst | 4-dimethylaminopyridine | 0.25 mmol, 0.031 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 5 mmol, 610 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-(tert-butoxycarbonyl)-3-cyclopentyl-L-alanine benzyl ester | 1.55 g | C(C1=CC=CC=C1)OC([C@@H](NC(=O)OC(C)(C)C)CC1CCCC1)=O | C20H29NO4
